US07829560B2
N-tert-butyloxycarbonyl-4-amino-1-naphthol (2.0 g, 7.72 mmol), potassium carbonate (5.34 g, 38.6 mmol) and 1-bromo-2-chloroethane (1.28 ml, 15.4 mmol) are heated to 80° C. in anhydrous acetonitrile (40 ml) under a nitrogen atmosphere for 1 day. The mixture is poured into ethyl acetate (250 ml) and washed with water (500 ml). The aqueous layer is re-extracted with ethyl acetate (2×100 ml), the organic layers combined and dried over anhydrous sodium sulfate. The organic layers are evaporated to dryness and the residue purified by column chromatography on silica gel eluted with 20% ethyl acetate in hexanes to give [4-(2-chloro-ethoxy)-naphthalen-1-yl]-carbamic acid tert-butyl ester (1.448 g).

reactant | N-tert-butyloxycarbonyl-4-amino-1-naphthol | 7.72 mmol, 2.0 g | C(C)(C)(C)OC(=O)NC1=CC=C(C2=CC=CC=C12)O | C15H17NO3
reactant | potassium carbonate | 38.6 mmol, 5.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 15.4 mmol, 1.28 ml | BrCCCl | C2H4BrCl
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | [4-(2-chloro-ethoxy)-naphthalen-1-yl]-carbamic acid tert-butyl ester | 1.448 g | C(C)(C)(C)OC(NC1=CC=C(C2=CC=CC=C12)OCCCl)=O | C17H20ClNO3
